US07893090B2
Description 73: (RS)-2-[1-(3-Methyl-benzofuran-2-yl)-methanoyl]-piperidine-1-carboxylic acid tert-butyl ester
The title compound (300 mg) was prepared from 3-methyl-benzofuran (390 mg) and (RS)-1-(tert-butyloxycarbonyl)-2-(N-methoxy-N-methylcarbamoyl)-piperidine, D1 (820 mg) according to a procedure similar to that for Description 2.

reactant | 3-methyl-benzofuran | 390 mg | CC1=COC2=C1C=CC=C2 | C9H8O
reactant | (RS)-1-(tert-butyloxycarbonyl)-2-(N-methoxy-N-methylcarbamoyl)-piperidine | C(C)(C)(C)OC(=O)N1C(CCCC1)C(N(C)OC)=O | C13H24N2O4
product | (RS)-2-[1-(3-Methyl-benzofuran-2-yl)-methanoyl]-piperidine-1-carboxylic acid tert-butyl ester | 300 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)C(=O)C=1OC2=C(C1C)C=CC=C2 | C20H25NO4
